Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[CH2:1][c:2]1[cH:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([CH2:9][N:10]3[CH2:16][CH2:15][N:13]([CH3:14])[CH2:12][CH2:11]3)[cH:17][cH:18]2)[n:19][o:20]1.[F:21][c:22]1[cH:23][cH:24][cH:25][c:26](-[c:27]2[n:28][c:29]3[cH:30][n:31][nH:32][cH:33][c:34]-3[n:35]2)[c:36]1[F:37]>>[CH2:1]([c:2]1[cH:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([CH2:9][N:10]3[CH2:11][CH2:12][N:13]([CH3:14])[CH2:15][CH2:16]3)[cH:17][cH:18]2)[n:19][o:20]1)[n:32]1[n:31][cH:30][c:29]2[n:28][c:27](-[c:26]3[cH:25][cH:24][cH:23][c:22]([F:21])[c:36]3[F:37])[n:35][c:34]-2[cH:33]1,[Cl:101][CH2:1][c:2]1[cH:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([CH2:9][N:10]3[CH2:11][CH2:12][N:13]([CH3:14])[CH2:15][CH2:16]3)[cH:17][cH:18]2)[n:19][o:20]1.[F:21][c:22]1[cH:23][cH:24][cH:25][c:26](-[c:27]2[n:28][c:29]3[cH:30][n:31][nH:32][cH:33][c:34]-3[n:35]2)[c:36]1[F:37]>>[CH2:1]([c:2]1[cH:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([CH2:9][N:10]3[CH2:11][CH2:12][N:13]([CH3:14])[CH2:15][CH2:16]3)[cH:17][cH:18]2)[n:19][o:20]1)[n:32]1[n:31][cH:30][c:29]2[n:28][c:27](-[c:26]3[cH:25][cH:24][cH:23][c:22]([F:21])[c:36]3[F:37])[n:35][c:34]-2[cH:33]1,SN2,"[(32, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:19][cH:18][c:5](-[c:6]2[c:7]([CH3:8])[nH:9][c:10]([C:11]([O:12][CH2:13][CH3:14])=[O:15])[c:16]2[CH3:17])[cH:4][cH:3]1)=[O:20].[N:21]#[C:22][c:23]1[cH:24][cH:25][c:26]([NH2:27])[cH:28][cH:29]1>>[C:1]([c:2]1[cH:3][cH:4][c:5](-[c:6]2[c:7]([CH3:8])[nH:9][c:10]([C:11]([O:12][CH2:13][CH3:14])=[O:15])[c:16]2[CH3:17])[cH:18][cH:19]1)(=[O:20])[NH:27][c:26]1[cH:25][cH:24][c:23]([C:22]#[N:21])[cH:29][cH:28]1,[OH:101][C:1]([c:2]1[cH:3][cH:4][c:5](-[c:6]2[c:7]([CH3:8])[nH:9][c:10]([C:11]([O:12][CH2:13][CH3:14])=[O:15])[c:16]2[CH3:17])[cH:18][cH:19]1)=[O:20].[N:21]#[C:22][c:23]1[cH:24][cH:25][c:26]([NH2:27])[cH:28][cH:29]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][c:5](-[c:6]2[c:7]([CH3:8])[nH:9][c:10]([C:11]([O:12][CH2:13][CH3:14])=[O:15])[c:16]2[CH3:17])[cH:18][cH:19]1)(=[O:20])[NH:27][c:26]1[cH:25][cH:24][c:23]([C:22]#[N:21])[cH:29][cH:28]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (27, 1), ([1, 20], 20), (303, 27.1), ([27.1, 27], 27), (20, [20, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([C:7]#[N:8])[cH:9]1)=[O:10].[NH2:11][c:12]1[cH:13][cH:14][cH:15][c:16](-[c:17]2[n:18][n:19][n:20][nH:21]2)[cH:22]1>>[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([C:7]#[N:8])[cH:9]1)(=[O:10])[NH:11][c:12]1[cH:13][cH:14][cH:15][c:16](-[c:17]2[n:18][n:19][n:20][nH:21]2)[cH:22]1,[NH2:11][c:12]1[cH:13][cH:14][cH:15][c:16](-[c:17]2[n:18][n:19][n:20][nH:21]2)[cH:22]1.[OH:101][C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([C:7]#[N:8])[cH:9]1)=[O:10].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([C:7]#[N:8])[cH:9]1)(=[O:10])[NH:11][c:12]1[cH:13][cH:14][cH:15][c:16](-[c:17]2[n:18][n:19][n:20][nH:21]2)[cH:22]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (11, 1), ([1, 10], 10), (303, 11.1), ([11.1, 11], 11), (10, [10, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[O:2]=[C:1](OC(=O)C(F)(F)F)[C:3]([F:4])([F:5])[F:6].[CH3:7][O:8][c:9]1[cH:10][cH:11][cH:12][c:13]([CH2:14][CH2:15][NH2:16])[cH:17]1>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[NH:16][CH2:15][CH2:14][c:13]1[cH:12][cH:11][cH:10][c:9]([O:8][CH3:7])[cH:17]1,O=C([O:101][C:1](=[O:2])[C:3]([F:4])([F:5])[F:6])C(F)(F)F.[CH3:7][O:8][c:9]1[cH:10][cH:11][cH:12][c:13]([CH2:14][CH2:15][NH2:16])[cH:17]1>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[NH:16][CH2:15][CH2:14][c:13]1[cH:12][cH:11][cH:10][c:9]([O:8][CH3:7])[cH:17]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(16, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
